US08377942B2
Hydroxylamine (50% aqueous, 0.37 ml) is added to a solution of 4-bromo-naphthalene-1-carbaldehyde (0.7 g) in methanol (6 ml). After 16 hours at room temperature the reaction is concentrated in vacuo to yield crude 4-bromo-naphthalene-1-carbaldehyde oxime, which is used in the next step without further purification.

reactant | Hydroxylamine | 0.37 ml | NO | H3NO
reactant | 4-bromo-naphthalene-1-carbaldehyde | 0.7 g | BrC1=CC=C(C2=CC=CC=C12)C=O | C11H7BrO
solvent | methanol | 6 ml | CO | CH4O
product | 4-bromo-naphthalene-1-carbaldehyde oxime | BrC1=CC=C(C2=CC=CC=C12)C=NO | C11H8BrNO
